US07977351B2
3-(6-Ethyl-6H-thieno[2,3-c]furan-4-ylidene)-5-fluoro-1,3-dihydro-indol-2-one
A solution of 5-fluoro-1,3-dihydro-indol-2-one (440 mg, 2.9 mmol.) in THF (3 mL) is cooled to 0° C. under an Argon atmosphere and treated with a solution of lithium bis(trimethylsilyl)amide (5.8 mL of a 1 M solution in THF, 5.8 mmol) dropwise. The resulting solution is stirred at 0° C. for 10 min and warmed to room temperature. A solution of 6-ethyl-6H-thieno[2,3-c]furan-4-one, (328 mg, 1.94 mmol) in THF (4 mL) and added dropwise to the reaction mixture. The resulting solution is stirred for 4 h. The reaction mixture is poured into aqueous 10% HCl solution (100 mL.). The resulting mixture is heated to 90° C. for 45 min and stirred at room temperature for 36 h. The precipitate which formed is collected by filtration and dried. The solid obtained is purified by chromatography (30% EtOAc/hexane). The product containing fractions are concentrated to give the title compound as a yellow solid (190 mg, 33%).

reactant | 5-fluoro-1,3-dihydro-indol-2-one | 2.9 mmol, 440 mg | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 6-ethyl-6H-thieno[2,3-c]furan-4-one | 1.94 mmol, 328 mg | C(C)C1OC(C2=C1SC=C2)=O | C8H8O2S
reactant | HCl | 100 mL | Cl | ClH
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 3-(6-Ethyl-6H-thieno[2,3-c]furan-4-ylidene)-5-fluoro-1,3-dihydro-indol-2-one | 190 mg, 33% | C(C)C1OC(C2=C1SC=C2)=C2C(NC1=CC=C(C=C21)F)=O | C16H12FNO2S
